US07256186B2
To a solution of (2R,5S)-1-(4-chloro-benzenesulfonyl)-2-phenyl-5-trimethylsilanyloxymethyl-pyrrolidine (0.76 g, 1.8 mmol) in 15 mL of MeOH at 0° C. was added K2CO3 (15 mg, 0.11 mmol, catalyst). After stirring at 0° C. for 30 min, the reaction mixture was partitioned between EtOAc (50 mL) and saturated brine (50 mL). The organic phase was separated, dried (Na2SO4) and concentrated under vacuum to give 0.63 g (100%) of (2R,5S)-[1-(4-chloro-benzenesulfonyl)-5-phenyl-pyrrolidin-2-yl]-methanol as a yellow gum. 1H NMR (CDCl3, 300 MHz) δ 7.90 (1H, d), 7.60 (1H, d), 7.40 (5H, m), 4.87 (1H, t), 4.10–3.90 (3H, m), 2.90 (1H, m), 2.05 (2H, m), 1.85 (2H, m). HPLC analysis using an analytical chiracel OD column (hexane/isopropanol) showed an e.e. >99% for this compound (r.t. for (2R,5S)-eantiomer=9.9 min, r.t. for (2S,5R)-enantiomer=12.3 min).

reactant | (2R,5S)-1-(4-chloro-benzenesulfonyl)-2-phenyl-5-trimethylsilanyloxymethyl-pyrrolidine | 1.8 mmol, 0.76 g | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CC[C@H]1CO[Si](C)(C)C)C1=CC=CC=C1 | C20H26ClNO3SSi
reactant | K2CO3 | 0.11 mmol, 15 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 15 mL | CO | CH4O
product | (2R,5S)-[1-(4-chloro-benzenesulfonyl)-5-phenyl-pyrrolidin-2-yl]-methanol | 0.63 g, 100% | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CC[C@H]1C1=CC=CC=C1)CO | C17H18ClNO3S
